US06169091A
6-Chloro-4-[4-(1,3-dioxolan-2-yl)methoxyanilino]pyrido[3,4-d]pyrimidine hydochloride
Prepared according to Procedure A from 4-(1,3-dioxolan-2-yl)methoxyaniline (prepared according to the published method: WO 96/09294) and 4,6-dichloropyrido[3,4-d]pyrimidine; δH [2H6]-DMSO 9.06 (1H,s), 8.85 (1H,s), 8.79 (1H,s), 7.73 (2H,d), 7.05 (2H,d), 5.21 (1H,t), 3.70-4.06 (6H,m); m/z (M+1)+359.

reactant | 4-(1,3-dioxolan-2-yl)methoxyaniline | O1C(OCC1)COC1=CC=C(N)C=C1 | C10H13NO3
reactant | 4,6-dichloropyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)Cl | C7H3Cl2N3
product | 6-Chloro-4-[4-(1,3-dioxolan-2-yl)methoxyanilino]pyrido[3,4-d]pyrimidine hydochloride | Cl.ClC1=CC2=C(N=CN=C2NC2=CC=C(C=C2)OCC2OCCO2)C=N1 | InChI=1S/C17H15ClN4O3.ClH/c18-15-7-13-14(8-19-15)20-10-21-17(13)22-11-1-3-12(4-2-11)25-9-16-23-5-6-24-16;/h1-4,7-8,10,16H,5-6,9H2,(H,20,21,22);1H
